US05449664
4'-Azidothymidine 5'-Monophosphate Disodium Salt
To a suspension of 4'-azidothymidine (0.20 g, 0.71 mM) in ethyl acetate (12 mL) cooled to 0° C. was added pyrophosphoryl chloride (0.5 mL, 3.7 mM). After stirring for 4 hours at 0° C., the solution was neutralized (pH 6 to 7) by the addition of saturated aqueous sodium bicarbonate. The organic phase was discarded, and the aqueous phase was stirred for 20 minutes with activated, 14-60 mesh, charcoal. The charcoal mixture was filtered and the charcoal rinsed with water (200 mL). All filtrates and rinsings were discarded. The charcoal was next washed with 50% aqueous ethanol containing 5% ammonium hydroxide (250 mL). These washings were concentrated in vacuo to about 5 mL and applied onto a 3×23 cm column of DEAE Sephadex (carbonate form). The column was eluted with a linear gradient consisting of 1 L of water and 1 L of 0.5M triethylammonium bicarbonate (pH 7). Pure product was collected and the solvent removed by evaporation. The residue was co-evaporated repeatedly with water, then dissolved in methanol (0.5 mL). The addition of 0.45M sodium perchlorate in acetone (2 mL) to this solution caused the title compound to precipitate out. Filtering off the solid and drying under vacuum left 55 mg of 4'-azidothymidine 5'-monophosphate disodium salt (mp 185° C., decomposition).

reactant | 4'-azidothymidine | 0.71 mM, 0.20 g | N(=[N+]=[N-])[C@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)CO | C10H13N5O5
reactant | pyrophosphoryl chloride | 3.7 mM, 0.5 mL | P(=O)(OP(=O)(Cl)Cl)(Cl)Cl | Cl4O3P2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | charcoal | C | CH4
solvent | ethyl acetate | 12 mL | C(C)(=O)OCC | C4H8O2
product | 4'-Azidothymidine 5'-Monophosphate Disodium Salt | [Na+].[Na+].P(=O)([O-])([O-])OC[C@@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)N=[N+]=[N-] | InChI=1S/C10H14N5O8P.2Na/c1-5-3-15(9(18)12-8(5)17)7-2-6(16)10(23-7,13-14-11)4-22-24(19,20)21;;/h3,6-7,16H,2,4H2,1H3,(H,12,17,18)(H2,19,20,21);;/q;2*+1/p-2/t6-,7+,10+;;/m0../s1
